US07635700B2
To a stirred mixture of 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.55 g, 1.6 mmol) in acetonitrile (10 mL), was added picolinoyl chloride hydrogen chloride (0.32 g, 1.8 mmol) and N,N-diisopropyl ethylamine (0.62 mL, 3.8 mmol). The mixture was stirred at room temp for 15 minutes. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give pyridine-2-carboxylicacid[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-amide as an off-white solid (67 mg, 10% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, gradient to 95/5 in 5 min, kept for 5 min, 6.85 min (99.4%); mp, 261-263° C.; 1HNMR (DMSO-d6) 2.08-2.27 (m, 1H, CHH), 2.64-2.93 (m, 6H, CHCH2, CH3), 4.91-5.05 (m, 2H, CH2NH), 5.27 (dd, J=6, 11 Hz, 1H, CH), 7.33-8.69 (m, 7H, Ar), 9.32 (t, J=6 Hz, 1H, CH2NH), 11.06 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.73, 23.31, 30.62, 42.12, 56.57, 117.72, 121.86, 125.18, 125.76, 126.60, 134.05, 137.82, 140.30, 148.55, 149.77, 154.87, 161.17, 163.79, 169.47, 172.65. LCMS MH=406; Anal Calcd For C21H19N5O4+0.5H2O: C, 60.86; H, 4.86; N, 16.90. Found: C, 60.72; H, 4.62; N, 16.69.

reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.6 mmol, 0.55 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
reactant | picolinoyl chloride hydrogen chloride | 1.8 mmol, 0.32 g | Cl.N1=C(C=CC=C1)C(=O)Cl
reactant | N,N-diisopropyl ethylamine | 3.8 mmol, 0.62 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | pyridine-2-carboxylicacid[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-amide | 67 mg, 10% yield | O=C1NC(CCC1N1C(=NC2=CC=CC(=C2C1=O)CNC(=O)C1=NC=CC=C1)C)=O | C21H19N5O4
